US07547710B2
To a solution of 9H-fluoren-9-ylmethyl 3-[[(tert-butoxycarbonyl)amino]methyl]-2-isobutyl-4-(4-methylphenyl)-6-quinolinylcarbamate (1.28 g, 2.0 mmol) in N,N-dimethylformamide (20 ml) was added piperidine (1 ml), and the mixture was stirred at room temperature for 1 hr. The reaction mixture was poured into water and extracted with ethyl acetate. The extract was washed with saturated brine, and dried over anhydrous magnesium-sulfate. The solvent was evaporated under reduced pressure and the residue was purified by silica gel column chromatography to give tert-butyl [6-amino-2-isobutyl-4-(4-methylphenyl)-3-quinolinyl]methylcarbamate (0.81 g, yield 96.4%).

reactant | 9H-fluoren-9-ylmethyl 3-[[(tert-butoxycarbonyl)amino]methyl]-2-isobutyl-4-(4-methylphenyl)-6-quinolinylcarbamate | 2.0 mmol, 1.28 g | C(C)(C)(C)OC(=O)NCC=1C(=NC2=CC=C(C=C2C1C1=CC=C(C=C1)C)NC(OCC1C2=CC=CC=C2C=2C=CC=CC12)=O)CC(C)C | C41H43N3O4
reactant | piperidine | 1 ml | N1CCCCC1 | C5H11N
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | tert-butyl [6-amino-2-isobutyl-4-(4-methylphenyl)-3-quinolinyl]methylcarbamate | 0.81 g, yield 96.4% | NC=1C=C2C(=C(C(=NC2=CC1)CC(C)C)CNC(OC(C)(C)C)=O)C1=CC=C(C=C1)C | C26H33N3O2
